US08729263B2
To a 25 mL microwave vial was added 4-bromo-3-methoxyphenol (1.0 g, 4.93 mmol), bis(pinacolato)diboron (1.88 g, 7.39 mmol), potassium acetate (2.41 g, 24.63 mmol), PdCl2(dppf) (0.36 g, 0.49 mmol), dppf (0.27 g, 0.49 mmol), and 1,4-dioxane (10 mL). The reaction solution was purged with nitrogen (3×) and stirred at 90° C. overnight. The reaction mixture was filtered through Celite and the filter cake was washed with EtOAC. The filtrate was concentrated in vacuo to give a brown liquid which was purified by silica gel chromotography (10%-50% EtOAc/Heptane) to afford 3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (700 mg, MS: 251.4 [M+H+].).

reactant | 4-bromo-3-methoxyphenol | 4.93 mmol, 1.0 g | BrC1=C(C=C(C=C1)O)OC | C7H7BrO2
reactant | bis(pinacolato)diboron | 7.39 mmol, 1.88 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 24.63 mmol, 2.41 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf) | 0.49 mmol, 0.36 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.49 mmol, 0.27 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 700 mg | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
